US04447441
A solution of 4-[6-(2-[2,2,2-trifluoroethyl]guanidino)pyrid-2-ylthio]butyric acid (84 mg.) and triethylamine (0.2 ml.) in DMF (5 ml.) was stirred at 0° while isobutylchloroformate (68 mg.) was added. The solution was kept at 0° for 0.5 hours, treated with a saturated solution of ammonia in EtOH (1 ml.) and then stirred at room temperature for 18 hours. The solution was evaporated to dryness and the residue partitioned between N aqueous HCl and EtOAc. The aqueous phase was basified with 10 N aqueous NaOH and extracted with EtOAc, and the extract was dried and evaporated to dryness to give 4-[6-(2-[2,2,2-trifluoroethyl]guanidino)pyrid-2-ylthio]butyramide (60 mg.) which was crystallised as the hydrogen maleate salt from acetone, m.p. 138°-141°.

reactant | 4-[6-(2-[2,2,2-trifluoroethyl]guanidino)pyrid-2-ylthio]butyric acid | 84 mg | FC(CN=C(NC1=CC=CC(=N1)SCCCC(=O)O)N)(F)F | C12H15F3N4O2S
reactant | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | isobutylchloroformate | 68 mg | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | ammonia | N | H3N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | EtOH | 1 ml | CCO | C2H6O
product | 4-[6-(2-[2,2,2-trifluoroethyl]guanidino)pyrid-2-ylthio]butyramide | 60 mg | FC(CN=C(NC1=CC=CC(=N1)SCCCC(=O)N)N)(F)F | C12H16F3N5OS
